US07592373B2
4.33.a. [(E)-2-(2-chloro-4-nitrophenyl)vinyl]dimethylamine
A reaction mixture of 8.49 g (48 mmol) of 2-chloro-4-nitrotoluene and 15.03 mL (72.8 mmol) of tert-butoxybis(dimethylamino)methane in 200 mL of THF is refluxed for 8 hours. The reaction solution is evaporated down and the residue is combined with petroleum ether. The precipitate is filtered off, rinsed with petroleum ether and dried at ambient temperature under a high vacuum. The product is used in other reactions without further purification. Yield: 11 g, C10H11ClN2O2 (M=226.66); calc.: molecular ion peak (M+H)+: 227/229; found: molecular ion peak (M+H)+: 227/229; Rf value: 0.55 (silica gel, petroleum ether/ethyl acetate (3:1)).

reactant | 2-chloro-4-nitrotoluene | 48 mmol, 8.49 g | ClC1=C(C=CC(=C1)[N+](=O)[O-])C | C7H6ClNO2
reactant | tert-butoxybis(dimethylamino)methane | 72.8 mmol, 15.03 mL | C(C)(C)(C)OC(N(C)C)N(C)C | C9H22N2O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | [(E)-2-(2-chloro-4-nitrophenyl)vinyl]dimethylamine | ClC1=C(C=CC(=C1)[N+](=O)[O-])/C=C/N(C)C | C10H11ClN2O2
